US07622471B2
5-Hydrazino-2-methoxypyridine hydrochloride
A solution of sodium nitrite (3.795 g) in water (20 mL) was added dropwise to 5-amino-2-methoxypyridine (6.21 g) in concentrated hydrochloric acid (50 mL) over a period of 60 minutes with ice cooling, and the resultant mixture was stirred at a constant temperature for 30 minutes. Tin(II) chloride dihydrate (39.5 g) in concentrated hydrochloric acid (30 mL) was added dropwise to the reaction mixture at an internal temperature of about 10° C. for 30 minutes, followed by stirring for 2 hours at room temperature. Under cooling with ice, the reaction mixture was partitioned between sodium hydroxide (75 g) in water (300 mL) and diethyl ether. The aqueous layer was extracted with diethyl ether twice. Subsequently, the aqueous layer was saturated with sodium chloride, followed by extraction with diethyl ether. The organic layers were combined, and dried over sodium sulfate anhydrate, followed by filtration. 1M HCl in ethanol (50 mL) was added to the filtrate and the mixture was stirred. The solid that precipitated was collected by filtration, washed with diethyl ether, and dried, to thereby give the title compound (5.02 g, 57%).

reactant | sodium nitrite | 3.795 g | N(=O)[O-].[Na+]
reactant | 5-amino-2-methoxypyridine | 6.21 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | Tin(II) chloride dihydrate | 39.5 g | O.O.[Sn](Cl)Cl
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | hydrochloric acid | 30 mL | Cl | ClH
product | 5-Hydrazino-2-methoxypyridine hydrochloride | 5.02 g, 57% | Cl.N(N)C=1C=CC(=NC1)OC | InChI=1S/C6H9N3O.ClH/c1-10-6-3-2-5(9-7)4-8-6;/h2-4,9H,7H2,1H3;1H
